US06316482B1
The solution of 4-[(1-tert-butoxycarbonyl-2-tert-butyldiphenylsilyloxymethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (615 mg) in 1N sodium hydroxide aqueous solution (3.1 ml) and methanol (10 ml) was stirred at ambient temperature overnight. The resulting solution was neutralized with 1N hydrochloric acid and extracted with ethyl acetate (20 ml). The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluent; 8-10% methanol in chloroform) to give 4-[(2-hydroxymethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (362 mg).

reactant | 4-[(1-tert-butoxycarbonyl-2-tert-butyldiphenylsilyloxymethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 615 mg | C(C)(C)(C)OC(=O)N1C(=CC2=C(C=CC=C12)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C58H71N5O8Si
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 3.1 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 4-[(2-hydroxymethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 362 mg | OCC=1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C37H45N5O6
